US08258130B2
A solution of di-tert-butyl dicarbonate (504 mg, 2.31 mmol) in DCM (10 mL) is added to a stirred solution of 5-fluoro-3-(1,2,3,6-tetrahydropyridin-4-yl) -indole (500 mg, 2.31 mmol) in DCM (20 mL) at rt and stirred at rt overnight. The reaction mixture is concentrated in vacuo to afford 4-(5-Fluoro-1H-indol-3-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (730 mg). MS: 317 (M+H); 1H NMR (300 MHz, CDCl3): δ 8.17 (br, H), 7.56 (d, H), 7.31 (m, H), 7.26 (s, H), 6.99 (t, H), 6.13 (s, H), 4.17(m, 2H), 3.70 (m, 2H), 2.57 (s, 2H), 1.54 (s, 9H).

reactant | di-tert-butyl dicarbonate | 2.31 mmol, 504 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 5-fluoro-3-(1,2,3,6-tetrahydropyridin-4-yl) -indole | 2.31 mmol, 500 mg | FC=1C=C2C(=CNC2=CC1)C=1CCNCC1 | C13H13FN2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 4-(5-Fluoro-1H-indol-3-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 730 mg | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CNC2=CC=C(C=C12)F | C18H21FN2O2
